US09416090B2
Synthesis of 4-hydroxyphenethyl 3-(4-(4-hydroxyphenoxy)phenyl)-propanoate
Into a 500 mL round bottomed flask fitted with an overhead stirrer, and a modified Dean-stark trap for solvents heavier than water are added 10 g (72 mmol) of tyrosol, 30 g (78 mmol) of desaminothyronine, 0.65 g (3.4 mmol) of 4-toluenesulfonic acid monohydrate and 200 mL of 1,2-dichloroethane (DCE). A water-cooled reflux condenser is placed on top of the modified Dean-stark trap and the contents of the flask are heated to reflux while being stirred. The reaction is continued until approximately 1.4 mL of water collected in the modified Dean-stark trap above the DCE and the water collection essentially stops (about 4 hours of reflux). The reaction mixture is cooled to room temperature and the crude product is dissolved in 100 mL of ethyl acetate and washed twice with 100 mL portions of 5% sodium bicarbonate solution. After drying over magnesium sulfate the organic layer is concentrated and precipitated with hexane. The resulting white crystalline solid is collected by filtration and dried in a vacuum oven at 25° C. The product is characterized by elemental analysis, hplc, and 1H NMR.

reactant | tyrosol | 72 mmol, 10 g | C1=CC(=CC=C1CCO)O | C8H10O2
reactant | desaminothyronine | 78 mmol, 30 g | C(CC1=CC=C(C=C1)OC1=CC=C(C=C1)O)C(=O)O | C15H14O4
reactant | 4-toluenesulfonic acid monohydrate | 3.4 mmol, 0.65 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water | approximately 1.4 mL | O | H2O
solvent | 1,2-dichloroethane | 200 mL | ClCCCl | C2H4Cl2
product | 4-hydroxyphenethyl 3-(4-(4-hydroxyphenoxy)phenyl)-propanoate | OC1=CC=C(OC2=CC=C(C=C2)CCC(=O)OCCC2=CC=C(C=C2)O)C=C1 | C23H22O5
